US04460579
(a) S-(2-Aminophenyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-cysteine, methyl ester
To a mixture of 2-amino-thiophenol (1.9 g., 15.4 mmole), methylene chloride (15 ml.), and 2,6-lutidine (1.8 ml., 1.0 eq.) at -20° (chloroform dry ice) is added 2-[[(1,1-dimethylethoxy)carbonyl]amino]-2-propenoic acid, methyl ester (3.0 g., 1.0 eq.) dropwise over 5 minutes. After one hour the cooling bath is removed and the reaction mixture is stirred for an additional 16 hours. The reaction mixture is diluted with ethyl acetate and washed with saturated sodium bicarbonate, water, brine, dried (MgSO4), and evaporated. The residue (4.1 g.) is chromatographed on silica (125 g.) eluting with hexane/ethyl acetate (5:1) to give 2.5 g. of S-(2-aminophenyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-cysteine, methyl ester as an oil after evaporation.

reactant | 2-amino-thiophenol | 15.4 mmole, 1.9 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2,6-lutidine | 1.8 ml, 1.0 eq. | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-[[(1,1-dimethylethoxy)carbonyl]amino]-2-propenoic acid, methyl ester | 3.0 g, 1.0 eq. | CC(C)(OC(=O)NC(C(=O)OC)=C)C | C9H15NO4
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | S-(2-Aminophenyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-cysteine, methyl ester | NC1=C(C=CC=C1)SC[C@H](NC(=O)OC(C)(C)C)C(=O)OC | C15H22N2O4S
